US09334297B2
Ethyl 5-oxo-2,3-diphenyltetrahydrofuran-2-carboxylate General Procedure
A flame dried 2 dram vial equipped with a stirbar is brought into the glovebox and charged with (+)-4 (0.016 mmol, 0.10 equiv), TBD (6.6 mg, 0.048 mmol, 0.30 equiv), and 4 Å molecular sieves (100 mg). The vial is then sealed with a screw cap equipped with a teflon septa. The vial is then taken out of the glovebox and THF (0.80 mL), ethyl 2-oxo-2-phenylacetate (57 mg, 0.32 mmol, 2.0 equiv) and cinnamaldehyde (21 mg, 0.16 mmol) are added. The reaction mixture is then stirred at 23° C. for 36 hours (monitored by GC/MS). The crude reaction mixture is filtered through celite and an aliquot is taken to determine dr. After filtration the crude mixture is concentrated and the crude residue is purified by column chromatography on silca gel (2% EtOAc/Hex) to provide the pure products. Analytical data matches that reported in the literature (Li, Y. et al., Adv. Synth. Catal. 2008, 350, 1885, incorporated herein by reference). Major diastereomer (Cis) 1H NMR (500 MHz, CDCl3): δ 7.72-7.67 (m, 2H), 7.45-7.27 (m, 8H), 4.08 (dd, J=8.4, 4.1 Hz, 1H), 3.87-3.80 (m, 2H), 2.88 (dd, J=17.6, 8.4 Hz, 1H), 2.79 (dd, J=17.7, 4.1 Hz, 1H), 0.89 (d, J=7.7 Hz, 3H). Enantiomeric ratio is determined by chiral phase HPLC (chiralcel AD-H; i-PrOH-hexane, 2:98, 1.0 mL/min, 210 nm); tr (major)=39.4 min, tr (major)=60.0 min. and tr (minor)=17.1 min, tr (minor)=18.7 min. Absolute stereochemistry is assigned by analogy.

reactant | THF | 0.80 mL | C1CCOC1 | C4H8O
reactant | ethyl 2-oxo-2-phenylacetate | 0.32 mmol, 57 mg, 2.0 equiv | O=C(C(=O)OCC)C1=CC=CC=C1 | C10H10O3
reactant | cinnamaldehyde | 0.16 mmol, 21 mg | C(C=CC1=CC=CC=C1)=O | C9H8O
solvent | i-PrOH hexane | CC(C)O.CCCCCC
product | Ethyl 5-oxo-2,3-diphenyltetrahydrofuran-2-carboxylate | O=C1CC(C(O1)(C(=O)OCC)C1=CC=CC=C1)C1=CC=CC=C1 | C19H18O4
